US07816557B2
Racemic 4-(1-Hydroxy-4,4-dimethyl-pentyl)-benzoic acid methyl ester
This compound is made from 4-formyl-benzoic acid methyl ester and 4,4-dimethylpentylmagnesium bromide following the general method of Preparation 1.

reactant | 4-formyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
reactant | 4,4-dimethylpentylmagnesium bromide | CC(CCC[Mg]Br)(C)C
product | Racemic 4-(1-Hydroxy-4,4-dimethyl-pentyl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C(CCC(C)(C)C)O)=O | C15H22O3
